US04205166
To a solution of methyl N-(2-acetamidoethyl)dithiocarbamate (12.6 g.) in dioxane (40 ml.) was added a solution of sodium azide (6.4 g.) in water (40 ml.), and the mixture was heated under reflux for 4 hours. After dioxane was removed from the resultant mixture under reduced pressure, the residue was washed with ether (350 ml.) and adjusted to pH 1 with 10% hydrochloric acid. After the resultant solution was extracted with ethyl acetate (1.5 l.), the extract was dried over magnesium sulfate and the solvent was evaporated to dryness to give 1-(2-acetamidoethyl)-1H-tetrazole-5-thiol (5.3 g.) having m.p. 137.5° to 139.5° C.

reactant | methyl N-(2-acetamidoethyl)dithiocarbamate | 12.6 g | C(C)(=O)NCCNC(SC)=S | C6H12N2OS2
reactant | sodium azide | 6.4 g | [N-]=[N+]=[N-].[Na+]
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
solvent | water | 40 ml | O | H2O
product | 1-(2-acetamidoethyl)-1H-tetrazole-5-thiol | 5.3 g | C(C)(=O)NCCN1N=NN=C1S | C5H9N5OS
